US04420477
A solution of 7-[2-(2-cyclopenten-1-yl)oxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-[1-(2-carboxy-2-hydroxyiminoethyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid (syn isomer: in the 7-position) (1.1 g) and conc. hydrochloric acid (0.12 g) in methanol (10 ml) and tetrahydrofuran (2 ml) was stirred at room temperature for 2.5 hours. After removal of organic solvents under reduced pressure, the residue was dissolved in an aqueous solution of sodium bicarbonate and the solution was adjusted to pH 7.5. The aqueous solution was washed with ethyl acetate (15 ml) and then adjusted to pH 3.0 with 10% hydrochloric acid to give precipitates which were filtered and washed with water to give 7-[2-(2-cyclopenten-1-yl)oxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-[1-(2-carboxy-2-hydroxyiminoethyl)-1H-tetrazole-5-yl]thiomethyl-3-cephem-4-carboxylic acid (syn isomer: in the 7-position).

reactant | 7-[2-(2-cyclopenten-1-yl)oxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-[1-(2-carboxy-2-hydroxyiminoethyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid | C1(C=CCC1)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC(=NO)C(=O)O)C(=O)O)C1=O)C=1N=C(SC1)NC=O | C23H22N10O9S3
reactant | hydrochloric acid | 0.12 g | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 7-[2-(2-cyclopenten-1-yl)oxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-[1-(2-carboxy-2-hydroxyiminoethyl)-1H-tetrazole-5-yl]thiomethyl-3-cephem-4-carboxylic acid | C1(C=CCC1)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC(=NO)C(=O)O)C(=O)O)C1=O)C=1N=C(SC1)N | C22H22N10O8S3
